US03963313
A mixture of 5.9 g. of p-aminobenzonitrile and 6.7 g. of p-ethylbenzaldehyde in 100 ml. of benzene is treated with 150 mg. of p-toluenesulfonic acid, gassed with nitrogen and heated at reflux for 1 hour (bath temperature 120°C.). The water which forms is separated by means of a water separator. During an additional 1 hour of refluxing, the benzene which condenses in the reflux condenser is led back to the reaction vessel through a layer of 50 g. of aluminum oxide (activity I). After cooling, 2 g. of solid potassium carbonate are added. The mixture is filtered and the filtrate freed from the solvent under vacuum at 50°C. (bath temperature), whereby there remains 11.5 g. of a yellow oil which crystallizes with cooling. Purification is carried out by several recrystallizations from isopropanol to a constant melting point and until by-products are no longer observed by gas chromatogram. The p-[(p-ethylbenzyliden)amino]benzonitrile which is obtained melts at 76.2°-77.0°C. and is liquid crystalline with cooling from 63.0°-59.7°C. UV (ethanol): ε277 = 25800 (shoulder at 316 nm). The nuclear magnetic resonance, mass spectrum, infrared and microanalysis date confirm the structure.

reactant | p-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | p-ethylbenzaldehyde | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | p-[(p-ethylbenzyliden)amino]benzonitrile | C(C)C1=CC=C(C=NC2=CC=C(C#N)C=C2)C=C1 | C16H14N2
